US08404684B2
[3-(4-Methyl-5-pyridin-4-yl-thiazol-2-yl)-ureido]-acetic acid ethyl ester
A stirred solution of 4-methyl-5-pyridin-4-yl-thiazol-2-ylamine (prepared according to the method described in European patent specification EP 117082 A2) (0.068 g, 3.56 mmol) in DMF (5 ml) is treated with ethyl isocyanatoacetate (0.043 ml, 3.916 mmol) and the solution is stirred overnight. The solvent is removed in vacuo and the crude product is partitioned between ethyl acetate (50 ml) and water (50 ml). The layers are separated and the aqueous portion is extracted with ethyl acetate (2×50 ml). The combined organic portions are washed with water, dried (MgSO4), filtered and concentrated in vacuo to yield an oil. Trituration with ethyl acetate yields the titled compound.

reactant | 4-methyl-5-pyridin-4-yl-thiazol-2-ylamine | CC=1N=C(SC1C1=CC=NC=C1)N | C9H9N3S
reactant | ethyl isocyanatoacetate | 3.916 mmol, 0.043 ml | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | [3-(4-Methyl-5-pyridin-4-yl-thiazol-2-yl)-ureido]-acetic acid ethyl ester | C(C)OC(CNC(=O)NC=1SC(=C(N1)C)C1=CC=NC=C1)=O | C14H16N4O3S
